US04833135
A solution of boron tribromide (0.4 g.) in methylene chloride (3 ml.) was added to a stirred solution of the (1RS,2RS)-1-{4-[4-(2-hexylthioethyl)-pyrazol-1-yl]butyl}-1,2,3,4-tetrahydro-6-methoxy-2-p-methoxyphenyl-2-methylnaphthalene thus obtained in methylene chloride (10 ml.) which was cooled to -70° C. under an atmosphere of argon and the mixture was allowed to warm up to laboratory temperature and was then poured into saturated aqueous sodium bicarbonate solution (20 ml.). The mixture was extracted three times with methylene chloride (10 ml. each time) and the combined extracts were washed with water, dried and evaporated to dryness. The residue was purified by chromatography on a silica gel column using a 6:1 v/v mixture of methylene chloride and ethyl acetate as eluent. There was thus obtained as an oil (1RS,2RS)-1-{4-[4-(2-hexylthioethyl)pyrazol-1-yl]butyl}-1,2,3,4-tetrahydro-2-p-hydroxyphenyl-2-methylnaphth-6-ol, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | boron tribromide | 0.4 g | B(Br)(Br)Br | BBr3
reactant | (1RS,2RS)-1-{4-[4-(2-hexylthioethyl)-pyrazol-1-yl]butyl}-1,2,3,4-tetrahydro-6-methoxy-2-p-methoxyphenyl-2-methylnaphthalene | C(CCCCC)SCCC=1C=NN(C1)CCCCC1C(CCC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C34H48N2O2S
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (1RS,2RS)-1-{4-[4-(2-hexylthioethyl)pyrazol-1-yl]butyl}-1,2,3,4-tetrahydro-2-p-hydroxyphenyl-2-methylnaphth-6-ol | C(CCCCC)SCCC=1C=NN(C1)CCCCC1C(CCC2=CC(=CC=C12)O)(C)C1=CC=C(C=C1)O | C32H44N2O2S
